US09212120B2
{1-[(Methoxy-methyl-carbamoyl)-methyl]-cyclopropyl}-acetic acid
To a mixture of 5 g 6-oxa-spiro[2.5]octane-5,7-dione (36 mmole), 3.8 g of N,O-dimethylhydroxylamine hydrochloride (39 mmole, 1.1 eq) and 75 ml of dichloromethane are added 7 ml of pyridine (78 mmole, 2.2 eq) at 0-5° C. The solution is warmed to room temperature, stirred over night and washed with 50 ml of brine. The aqueous phase is extracted with 3×30 ml of dichloromethane and the combined organic phases are dried over magnesium sulfate and evaporated to dryness. The resulting crude product is directly used in the next step ([1-(2-oxo-propyl)-cyclopropyl]-acetic acid).

reactant | 6-oxa-spiro[2.5]octane-5,7-dione | 36 mmole, 5 g | C1CC12CC(OC(C2)=O)=O | C7H8O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 39 mmole, 3.8 g, 1.1 eq | Cl.CNOC
reactant | pyridine | 78 mmole, 7 ml, 2.2 eq | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | {1-[(Methoxy-methyl-carbamoyl)-methyl]-cyclopropyl}-acetic acid | CON(C(=O)CC1(CC1)CC(=O)O)C | C9H15NO4
